US09126993B2
N-(2-(biphenyl-4-yl)propan-2-yl)-2-(quinuclidin-3-yl)acetamide
Using general procedure E, N-(2-(4-bromophenyl)propan-2-yl)-2-(quinuclidin-3-yl)acetamide (200 mg, 0.550 mmol), phenylboronic acid (134 mg, 1.00 mmol) and [PdCl2(pddf)]CH2Cl2 gave the title compound as a viscous brown oil (58 mg, 32%). 1H NMR (500 MHz, CDCl3) δ 7.58-7.50 (m, 4H), 7.44-7.37 (m, 4H), 7.31 (t, J=7.0 Hz, 1H), 6.50 (s, 1H), 3.16 (m, 1H), 3.02 (m, 1H), 2.92-2.78 (m, 3H), 2.60 (m, 1H), 2.40-2.20 (m, 3H), 1.47-1.90 (m, 11H) ppm. 13C NMR (125 MHz, CDCl3) δ 170.5, 146.1, 140.7, 139.2, 128.8, 127.2, 127.0 125.2, 55.6, 53.1, 46.8, 46.2, 40.3, 31.7, 29.3, 29.2, 26.0, 24.4, 19.7 ppm. Purity: 100% LCMS (214 nm & 254 nm); retention time 1.55 min; (M+1) 363.

reactant | N-(2-(4-bromophenyl)propan-2-yl)-2-(quinuclidin-3-yl)acetamide | 0.550 mmol, 200 mg | BrC1=CC=C(C=C1)C(C)(C)NC(CC1CN2CCC1CC2)=O | C18H25BrN2O
reactant | phenylboronic acid | 1.00 mmol, 134 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N-(2-(biphenyl-4-yl)propan-2-yl)-2-(quinuclidin-3-yl)acetamide | 58 mg, 32% | C1(=CC=C(C=C1)C(C)(C)NC(CC1CN2CCC1CC2)=O)C2=CC=CC=C2 | C24H30N2O
